US08729095B2
To a mixed solvent solution of benzyl 4-bromo-2-fluorobenzoate (67.0 g) and 2-hydroxyphenylboronic acid (31.3 g) in 1,2-dimethoxyethane (750 ml) and water (250 ml) were added sodium carbonate (68.7 g) and tetrakis(triphenylphosphine)palladium (12.5 g), followed by stirring under heating at reflux for 5 hours. The reaction solution was brought back to room temperature, and then poured into ice water, followed by extraction with ethyl acetate. The organic layer was washed sequentially with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography, and further washed with hexane to afford benzyl 3-fluoro-2′-hydroxybiphenyl-4-carboxylate (62.5 g).

reactant | benzyl 4-bromo-2-fluorobenzoate | 67.0 g | BrC1=CC(=C(C(=O)OCC2=CC=CC=C2)C=C1)F | C14H10BrFO2
reactant | 2-hydroxyphenylboronic acid | 31.3 g | OC1=C(C=CC=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 68.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 750 ml | COCCOC | C4H10O2
solvent | water | 250 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 12.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl 3-fluoro-2′-hydroxybiphenyl-4-carboxylate | 62.5 g | FC=1C=C(C=CC1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)O | C20H15FO3
